US04617146
25.9 g of 1-hydroxy-1,2,2,5,5,6-hexamethylcyclohexane are dissolved in 600 ml of benzene and, after the addition of a spatula tip of p-toluenesulphonic acid, held at boiling temperature on a water separator for 3 hours. The mixture is cooled, treated with sodium carbonate, stirred briefly, filtered and the benzene is distilled off at normal pressure. Distillation of the residue gives 21 g of 1,2,3,3,6,6-hexamethyl-1-cyclohexene as a colourless liquid of boiling point 65°-67° C./10 mm Hg.

reactant | 1-hydroxy-1,2,2,5,5,6-hexamethylcyclohexane | 25.9 g | OC1(C(CCC(C1C)(C)C)(C)C)C | C12H24O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 1,2,3,3,6,6-hexamethyl-1-cyclohexene | 21 g | CC1=C(C(CCC1(C)C)(C)C)C | C12H22
